US07157447B2
(R)-(1-(2-((3-(Benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenyl)-5-oxopyrrolidin-2-yl)methyl methanesulfonate.
To a stirred solution of intermediate 192, (R)-N-(4-fluoro-2-(2-(hydroxymethyl)-5-oxopyrrolidin-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.160 g, 0.291 mmol) in CH2Cl2 (10 mL) at 0° C. was added triethylamine (81 μL, 0.582 mmol) and methanesulfonyl chloride (27 μL, 0.349 mmol). The reaction mixture was stirred at 23° C. for 4 h. Water (50 mL) was then added and the organic material was extracted with CH2Cl2 (2×50 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo to afford the title compound (0.178 g, 98% yield). The crude material was used without further purification for the next step: LCMS (M+H)+ m/z 629.

reactant | (R)-N-(4-fluoro-2-(2-(hydroxymethyl)-5-oxopyrrolidin-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.291 mmol, 0.160 g | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)N1[C@H](CCC1=O)CO | C29H31FN4O6
reactant | triethylamine | 0.582 mmol, 81 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.349 mmol, 27 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 50 mL | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-(1-(2-((3-(Benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenyl)-5-oxopyrrolidin-2-yl)methyl methanesulfonate | 0.178 g, 98% yield | CS(=O)(=O)OC[C@@H]1N(C(CC1)=O)C1=C(C=CC(=C1)F)CNC(=O)C=1N=C2C(OCCN2C(C1OCC1=CC=CC=C1)=O)(C)C | C30H33FN4O8S
